US06900227B2
Preparation of 4-[4-(4-fluoro-phenyl)-3,6-dihydro-2H-pyridine-1-sulfonyl]-benzene-1,2-diol
1-(2,2-Diphenyl-benzo[1,3]dioxole-5-sulfonyl)-4-(4-fluoro-phenyl)-1,2,3,6-tetrahydro-pyridine (3.2 g, 6.2 mmol) was dissolved in methylene chloride (100 ml). Trifluoroacetic acid (50 ml) was added dropwise and the reaction was stirred for 5 hours at room temperature. The solvent was evaporated and the residue was purified by column chromatography on silica gel (100 g, methylene chloride then ethyl acetate as eluant). The product was crystallized from ether/hexane to give a white solid (2.1 g, 96%).

reactant | 1-(2,2-Diphenyl-benzo[1,3]dioxole-5-sulfonyl)-4-(4-fluoro-phenyl)-1,2,3,6-tetrahydro-pyridine | 6.2 mmol, 3.2 g | C1(=CC=CC=C1)C1(OC2=C(O1)C=CC(=C2)S(=O)(=O)N2CCC(=CC2)C2=CC=C(C=C2)F)C2=CC=CC=C2 | C30H24FNO4S
reactant | Trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-[4-(4-fluoro-phenyl)-3,6-dihydro-2H-pyridine-1-sulfonyl]-benzene-1,2-diol | 2.1 g, 96% | FC1=CC=C(C=C1)C=1CCN(CC1)S(=O)(=O)C=1C=C(C(=CC1)O)O | C17H16FNO4S
